US07807671B2
Preparation of 1-(7-amino-4-fluoro-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)ethane-1,2-dione (Compound B-17)
2-(7-amino-4-fluoro-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-oxoacetic acid (2.3 g, 10.0 mmol) was dissolved in DMF (66 mL) and treated with 1-(1-phenyl-1H-tetrazol-5-yl)piperazine (2.31 g, 10.0 mmol), triethylamine (2.8 mL, 20.0 mmol) and TBTU (3.5 g, 11.0 mmol) and a catalytic amount of DMAP. The reaction mixture was stirred at rt for 18 h. Solvent was removed in vacuum and water was added. A white solid precipitated out and it was collected by filtration and recrystallized with MeOH to afford the title compound (2.4 g) as a yellow solid. 1HNMR (500 MHz, DMSO-D6) δ 8.53 (s, 1H), 7.81 (d, J=4.0 Hz; 1H), 7.75-7.54 (m, 5H), 3.69 (m, 2H), 3.44 (m, 2H), 3.33 (m, 2H), 3.17 (m, 2H). LCMS: m/e 436 (M+H)+, ret time 1.73 min (method 2).

reactant | 2-(7-amino-4-fluoro-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-oxoacetic acid | 10.0 mmol, 2.3 g | NC=1N=CC(=C2C1NC=C2C(C(=O)O)=O)F | C9H6FN3O3
reactant | 1-(1-phenyl-1H-tetrazol-5-yl)piperazine | 10.0 mmol, 2.31 g | C1(=CC=CC=C1)N1N=NN=C1N1CCNCC1 | C11H14N6
reactant | triethylamine | 20.0 mmol, 2.8 mL | C(C)N(CC)CC | C6H15N
reactant | TBTU | 11.0 mmol, 3.5 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DMF | 66 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | 1-(7-amino-4-fluoro-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)ethane-1,2-dione | 2.4 g | NC=1N=CC(=C2C1NC=C2C(C(=O)N2CCN(CC2)C2=NN=NN2C2=CC=CC=C2)=O)F | C20H18FN9O2
